US04471117
A mixture of 14 parts of N-(5-benzoyl-2-chlorophenyl)-N'-(3-hydroxypropyl)thiourea, 5 parts of sodium hydride dispersion 75% and 180 parts of N,N-dimethylacetamide is stirred and heated quickly to 130° C. The reaction mixture is cooled and poured onto water. The precipitated product is filtered off and crystallized from ethanol, yielding 1.8 parts of {2-[(3-hydroxypropyl)amino]-5-benzothiazolyl}phenylmethanone; mp. 162° C.

reactant | N-(5-benzoyl-2-chlorophenyl)-N'-(3-hydroxypropyl)thiourea | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C1)NC(=S)NCCCO)Cl | C17H17ClN2O2S
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | {2-[(3-hydroxypropyl)amino]-5-benzothiazolyl}phenylmethanone | OCCCNC=1SC2=C(N1)C=C(C=C2)C(=O)C2=CC=CC=C2 | C17H16N2O2S
